US04942241
To a mixture of 7.84 g 4-cyano-2,6-dimethylphenol, 3.57 g potassium hydroxide and 10.6 g potassium iodide in 200 ml acetonitrile was added 12 g 5-(2-chloropropyl)-3-ethylisoxazole, and the mixture was heated at reflux for about 16 hrs. The reaction mixture was concentrated in vacuo and the residue partitioned between ethyl acetate and water. The ethyl acetate layer was washed with aqueous sodium hydroxide (10%) until the excess starting phenol was removed, and the solution concentrated to give 10 g of 5-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]-3-ethylisoxazole as a yellow oil. A sample of the latter was obtained in crystalline form, m.p. 50°-51° C. by crystallization from methanol at -50° C.

reactant | 4-cyano-2,6-dimethylphenol | 7.84 g | C(#N)C1=CC(=C(C(=C1)C)O)C | C9H9NO
reactant | potassium hydroxide | 3.57 g | [OH-].[K+]
reactant | potassium iodide | 10.6 g | [I-].[K+]
reactant | 5-(2-chloropropyl)-3-ethylisoxazole | 12 g | ClC(CC1=CC(=NO1)CC)C | C8H12ClNO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]-3-ethylisoxazole | 10 g | CC1=C(OCCCC2=CC(=NO2)CC)C(=CC(=C1)C#N)C | C17H20N2O2
